US08937150B2
5-nitro-2-(pyrrolidin-1-yl)pyridine
To a slurry of 2-chloro-5-nitropyridine (10 g, 63.1 mmol) in EtOH (100 mL) at room temperature was added pyrrolidine (15.72 mL, 189 mmol) and the mixture was heated at 70° C. for 18 hours. The cooled solution was concentrated in vacuo and the residue partitioned between CH2Cl2 and 1 M NaOH. The organic layer was dried (Na2SO4), filtered and solvent removed in vacuo to give title compound (9.52 g, 78%). MS (ESI) m/z 194 (M+H)+.

reactant | 2-chloro-5-nitropyridine | 63.1 mmol, 10 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | pyrrolidine | 189 mmol, 15.72 mL | N1CCCC1 | C4H9N
solvent | EtOH | 100 mL | CCO | C2H6O
product | 5-nitro-2-(pyrrolidin-1-yl)pyridine | 9.52 g, 78% | [N+](=O)([O-])C=1C=CC(=NC1)N1CCCC1 | C9H11N3O2
